US07396844B1
Synthesis of 4-[imino(pyrrolidine-1-yl)methyl]benzoic acid hydrochloride
15.2 g (103 mmol) of 4-cyano-benzoic acid was added to 200 ml of an ethyl acetate solution containing 4 N hydrogen chloride and 50 ml of ethanol, and they were stirred for 5 days. The solvent was distilled off under reduced pressure, and 100 ml of ethyl acetate was added to the resulting solid, and the mixture was stirred for 30 minutes, and the solid was collected by filtration. The resulting solid was reacted with 15.0 g (211 mmol) of pyrrolidine and 10.0 g (98.8 mmol) of triethylamine for 2 days in 100 ml ethanol as the solvent. The solvent was distilled off, and 40 ml of 6 N hydrochloric acid was added to the residue, and it was reacted at 85° C. for 4 hours. The solvent was distilled off, and 50 ml of 1 N hydrochloric acid was added to the residue which was then stilled for 30 minutes, and the solid was collected by filtration and washed with 20 ml of ice-cold water. It was dried under reduced pressure to obtain the title compound.

reactant | 4-cyano-benzoic acid | 103 mmol, 15.2 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | pyrrolidine | 211 mmol, 15.0 g | N1CCCC1 | C4H9N
reactant | triethylamine | 98.8 mmol, 10.0 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-[imino(pyrrolidine-1-yl)methyl]benzoic acid hydrochloride | Cl.N=C(C1=CC=C(C(=O)O)C=C1)N1CCCC1 | InChI=1S/C12H14N2O2.ClH/c13-11(14-7-1-2-8-14)9-3-5-10(6-4-9)12(15)16;/h3-6,13H,1-2,7-8H2,(H,15,16);1H
